US07671033B2
Preparation of 4-Hexadecyloxybenzyl Chloride
In this case the synthesis followed the same general procedure as that for the preparation of 4-dodecyloxybenzyl chloride; thionyl chloride (7.07 g, 60.0 mmol), 4-hexadecyloxybenzyl alcohol (19.0 g, 54.5 mmol), CH2Cl2 (150 mL). 19.0 g (95%) white solid which decomposes upon melting.

reactant | 4-dodecyloxybenzyl chloride | C(CCCCCCCCCCC)OC1=CC=C(CCl)C=C1 | C19H31ClO
reactant | thionyl chloride | 60.0 mmol, 7.07 g | S(=O)(Cl)Cl | Cl2OS
reactant | 4-hexadecyloxybenzyl alcohol | 54.5 mmol, 19.0 g | C(CCCCCCCCCCCCCCC)OC1=CC=C(CO)C=C1 | C23H40O2
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
product | 4-Hexadecyloxybenzyl Chloride | C(CCCCCCCCCCCCCCC)OC1=CC=C(CCl)C=C1 | C23H39ClO
